US08865736B2
3-[4-(2-Bromo-5-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide
To a solution of 3-[5-Bromo-4-(2-bromo-5-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide (0.06 g, 0.0001 mol) in 6 ml of acetic acid was added zinc (0.06 g, 0.0001 mol). The reaction mixture was refluxed for 30 min. The reaction mixture was allowed to come at 25° C. The reaction mixture was filtered on celite bed; the product was precipitated by adding water to the filtrate. The white solid was filtered and dried (0.006 g, 12%). 1H NMR (DMSO, 400 MHz), 3.79 (s, 3H), 5.59 (s, 2H), 6.94 (dd, 1H, J=8.8 Hz (o-coupling), J=4.0 Hz), 7.09-7.15 (m, 1H), 7.27 (d, 1H, J-4.0 Hz), 7.40-7.43 (m, 1H), 7.63 (d, 1H, J=8.8 Hz (o-coupling), 7.89 (broad s, 1H), 8.11 (s, 1H), 8.18 (s, 1H); MS ES+ (455.08 & 457.08). HPLC (method 5) Rt=10.21 min.

reactant | 3-[5-Bromo-4-(2-bromo-5-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 0.0001 mol, 0.06 g | BrC1=C(N=C(S1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=C(C=CC(=C1)OC)Br | C18H12Br2F2N2O3S
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.0001 mol, 0.06 g | [Zn] | Zn
product | 3-[4-(2-Bromo-5-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | BrC1=C(C=C(C=C1)OC)C=1N=C(SC1)COC=1C(=C(C(=O)N)C(=CC1)F)F | C18H13BrF2N2O3S
